US07018786B2
14.34 g (101.7 mmol) 6-amino-1-methyluracil and 26 mL (108 mmol) 1,1,3,3-tetraethoxypropane are dissolved in a mixture of 250 mL ethanol and 1 liter water and refluxed for 3 hours. After cooling down to room temperature, the precipitated intermediate is isolated by filtration washed with water and dried. 7.71 g of the condensation product of the acetal and the amino group is added to 12.5 mL concentrated sulfuric acid and the mixture is heated to 160° C. After cooling down to room temperature, the mixture is poured into 125 g ice. The crude product precipitates from the medium, is isolated by filtration, washed to neutral pH and dried. 4.84 g of the crude product is dissolved in 2 l refluxing methanol. 300 mL silicagel is added and the mixture is evaporated under reduced pressure. The crude product loaded onto the silicagel is purified by preparative column chromatography using chloroform/methanol 9:1. 3.49 g (19%) 1-methylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione is isolated (m.p. 277–285° C., Lit. 285° C.).

reactant | 6-amino-1-methyluracil | 101.7 mmol, 14.34 g | NC1=CC(NC(N1C)=O)=O | C5H7N3O2
reactant | 1,1,3,3-tetraethoxypropane | 108 mmol, 26 mL | C(C)OC(CC(OCC)OCC)OCC | C11H24O4
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | water | 1 liter | O | H2O
product | 1-methylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 3.49 g, 19% | CN1C(NC(C2=C1N=CC=C2)=O)=O | C8H7N3O2
